US08071651B2
a) 3,6-Dibromo-1-(3-methoxypropyl)-1H-indole
A solution of 10.39 g of 6-bromo-1-(3-methoxypropyl)-1H-indole (building block 5) in 1.5 l of tetrahydrofuran is cooled to −78° C., and 7.05 g of N-bromosuccinimide are added. The mixture is stirred at −78° C. for 1.7 hours and then warmed to room temperature. The reaction mixture is evaporated. The title compound is obtained as an orange oil from the residue by flash chromatography (SiO2 60 F). Rf=0.31 (EtOAc-heptane 1:4); Rt=5.65 (Gradient I).

reactant | 6-bromo-1-(3-methoxypropyl)-1H-indole | 10.39 g | BrC1=CC=C2C=CN(C2=C1)CCCOC | C12H14BrNO
reactant | N-bromosuccinimide | 7.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 1.5 l | O1CCCC1 | C4H8O
product | 3,6-Dibromo-1-(3-methoxypropyl)-1H-indole | BrC1=CN(C2=CC(=CC=C12)Br)CCCOC | C12H13Br2NO
